US08357711B2
3-[(1,3,4-Thiadiazol-2-ylamino)sulfonyl]-N-[4-(trifluoromethyl)benzyl]benzamide
To a solution of 3-[(1,3,4-thiadiazol-2-ylamino)sulfonyl]benzoic acid (100 mg, 0.350, mmol, 1 eq) in THF (1 ml) was added Et3N (0.19 ml, 1.4 mmol, 4 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI HCl, 87 mg, 0.455 mmol, 1.3 eq), 1-hydroxybenzotriazole hydrate (HOBt, 61 mg, 0.455 mmol, 1.3 eq) and 4-(trifluoromethyl)benzylamine (0.075 ml, 0.525 mmol, 1.5 eq) at 0° C. The reaction mixture was stirred at 30-40° C. for 18 hours. The reaction mixture was extracted from 2M HCl into ethyl acetate, washed with sat sodium hydrogen carbonate, brine, dried over magnesium sulphate, filtered and evaporated in vacuo. The crude material was purified by preparative HPLC to yield the title compound.

reactant | 3-[(1,3,4-thiadiazol-2-ylamino)sulfonyl]benzoic acid | 100 mg, 1 eq | S1C(=NN=C1)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C9H7N3O4S2
reactant | Et3N | 1.4 mmol, 0.19 ml, 4 eq | CCN(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.455 mmol, 87 mg, 1.3 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.455 mmol, 61 mg, 1.3 eq | O.ON1N=NC2=C1C=CC=C2
reactant | 4-(trifluoromethyl)benzylamine | 0.525 mmol, 0.075 ml, 1.5 eq | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-[(1,3,4-Thiadiazol-2-ylamino)sulfonyl]-N-[4-(trifluoromethyl)benzyl]benzamide | S1C(=NN=C1)NS(=O)(=O)C=1C=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C=CC1 | C17H13F3N4O3S2
